US07968723B2
A mixture of ethyl (4-mercapto-2-methylphenoxy)acetate (1.0 g, 4.4 mmol), 2,4,6-tribromopyridine (1.26 g, 4 mmol; prepared as described in Chem. Ber. 1989, 122, 489), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium complex with dichloromethane (0.163 g, 0.20 mmol), triethylamine (1.23 mL, 8.8 mmol) and N-methylpyrrolidinone (12 mL) was heated under nitrogen at 80° C. for 3 h. The reaction mixture was then poured into water (60 mL) and extracted with ethyl acetate (3×70 mL). The combined organic layers were dried with anhydrous magnesium sulfate and evaporated in vacuo. Column chromatography of the crude product (silica gel Fluka 60, hexanes/ethyl acetate 98:2-80:20) afforded ethyl [4-(2,6-dibromopyridine-4-ylsulfanyl)-2-methylphenoxy]acetate.

reactant | ethyl (4-mercapto-2-methylphenoxy)acetate | 4.4 mmol, 1.0 g | SC1=CC(=C(OCC(=O)OCC)C=C1)C | C11H14O3S
reactant | 2,4,6-tribromopyridine | 4 mmol, 1.26 g | BrC1=NC(=CC(=C1)Br)Br | C5H2Br3N
reactant | dichloromethane | 0.20 mmol, 0.163 g | ClCCl | CH2Cl2
reactant | triethylamine | 8.8 mmol, 1.23 mL | C(C)N(CC)CC | C6H15N
solvent | water | 60 mL | O | H2O
solvent | N-methylpyrrolidinone | 12 mL | CN1C(CCC1)=O | C5H9NO
product | ethyl [4-(2,6-dibromopyridine-4-ylsulfanyl)-2-methylphenoxy]acetate | BrC1=NC(=CC(=C1)SC1=CC(=C(OCC(=O)OCC)C=C1)C)Br | C16H15Br2NO3S
